US04161528
N-(3-Chloro-phenyl)-N'-(4-methyl-phenyl)-ethylenediamine
A mixture consisting of 15.8 gm of N-(2-bromo-ethyl)-3-chloro-aniline hydrobromide, 10.7 gm of 4-methyl-aniline, 50 ml of toluene and 15 gm of anhydrous sodium carbonate was refluxed for eight hours, while stirring. Thereafter, the reaction mixture was filtered, the filter cake was washed with ethyl acetate, and the filtrate was evaporated in vacuo, leaving 10 gm of an oil which was used as the starting material in Example 11 without further purification. It was identified to be N-(3-chloro-phenyl)-N'-(4-methyl-phenyl)-ethylenediamine.

reactant | N-(2-bromo-ethyl)-3-chloro-aniline hydrobromide | 15.8 gm | Br.BrCCNC1=CC(=CC=C1)Cl
reactant | 4-methyl-aniline | 10.7 gm | CC1=CC=C(N)C=C1 | C7H9N
reactant | sodium carbonate | 15 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Chloro-phenyl)-N'-(4-methyl-phenyl)-ethylenediamine | 10 gm | ClC=1C=C(C=CC1)NCCNC1=CC=C(C=C1)C | C15H17ClN2
